US05064946
1-(3-Azido-2,3-Dideoxy-β-D-erythro-pentofuranosyl)-5-Methyl-4-(Propylamino)-2-(1H)-Pyrimidinone
1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(propylamino)-2-(1H)-pyrimidinone (0.3 g, 0.8 mMol,EX.) was dissolved in NH3 saturated MeOH (15 mL). After 3 hours the solvents were evaporated in vacuo to yield the title compound as a solid: mp=59°-62° C.; UV(nm): at pH 1 λmax=288,219(ε=11300,9500), λmin=247(ε=1700); at pH 13 λmax=276(ε=9000), λmin=253(ε=6400); H NMR(DMSO-d6) δ7.54(s,1H,H6), 7.17(t,1H,--NH--), 6.08(t,1H,H1',J=6.45 Hz), 5.17(t,1H,5'OH), 4.33(q,1H,H3'), 3.79(q,1H,H4'), 3.65-3.55(m,2H,--NH--CH2--), 3.26-3.19(m,2H,H5'), 2.22(t,2H,H2'), 1.83(s, 3H,5-CH3), 1.6-1.4(m,2H,--CH2--CH3), 0.84(t,3H,--CH2--CH3).

reactant | 1-(5-O-Acetyl-3-azido-2,3-dideoxy-β-D-erythro-pentofuranosyl)-5-methyl-4-(propylamino)-2-(1H)-pyrimidinone | 0.8 mMol, 0.3 g | C(C)(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(N=C(C(=C1)C)NCCC)=O)N=[N+]=[N-] | C15H22N6O4
solvent | NH3 | 15 mL | N | H3N
product | 1-(3-Azido-2,3-Dideoxy-β-D-erythro-pentofuranosyl)-5-Methyl-4-(Propylamino)-2-(1H)-Pyrimidinone | N(=[N+]=[N-])[C@H]1C[C@@H](O[C@@H]1CO)N1C(N=C(C(=C1)C)NCCC)=O | C13H20N6O3
